US08212041B2
(R)—N—((S)-1-(2-chloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-2,2,2-trifluoroethyl)-2-methylpropane-2-sulfinamide
A suspension of (R)—N—((S)-1-(4-bromo-2-chlorophenyl)-2,2,2-trifluoroethyl)-2-methylpropane-2-sulfinamide (950 mg, 2419 μmol), bis(pinacolato)diboron (676 mg, 2661 μmol), dichloro[1,1′bis(diphenylphoshino)ferrocene]palladium(ii)dichloromethane adduct (88.5 mg, 121 μmol), and potassium acetate (475 mg, 4839 μmol) in dioxane (6 mL) was sparged with argon for 5 min. Reaction then appropriately sealed and heated to 120° C. with stirring for 1 h. Reaction then partitioned between EtOAc (25 mL) and 5% NaHCO3 (10 mL). Organic dried over MgSO4, concentrated, then purified on silica (120 g) eluting product with 10>20% of EtOAc/hexanes. Product isolated as a waxy white solid. MS (ESI pos. ion) m/z: 440 (MH+). Calc'd exact mass for C18H26BClF3NO3S: 439.

reactant | (R)—N—((S)-1-(4-bromo-2-chlorophenyl)-2,2,2-trifluoroethyl)-2-methylpropane-2-sulfinamide | 2419 μmol, 950 mg | BrC1=CC(=C(C=C1)[C@@H](C(F)(F)F)N[S@](=O)C(C)(C)C)Cl | C12H14BrClF3NOS
reactant | bis(pinacolato)diboron | 2661 μmol, 676 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 4839 μmol, 475 mg | C(C)(=O)[O-].[K+]
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
catalyst | dichloro[1,1′bis(diphenylphoshino)ferrocene]palladium(ii)dichloromethane adduct | 121 μmol, 88.5 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | (R)—N—((S)-1-(2-chloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-2,2,2-trifluoroethyl)-2-methylpropane-2-sulfinamide | ClC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)[C@@H](C(F)(F)F)N[S@](=O)C(C)(C)C | C18H26BClF3NO3S
